US06756378B2
To a stirred solution of 5-carboxymethyl-2-[(2S,4S)-1-tert-butoxycarbonyl-4-(2-napthyloxy)-2-pyrrolidinyl]methoxypyridine (170 mg, 0.36 mmol) in CH2Cl2 (5 ml) was added TFA (2 ml) at room temperature. After 2 h stirring, the mixture was concentrated in vacuo, which was diluted with CH2Cl2 and basified by the addition of 1 N NaOH. The combined reaction mixture was extracted with CH2Cl2. The organic layer was washed with brine, which were dried over NaSO4 and concentrated. The residue was purified on TLC [CHCl3/MeOH (10/1)], to give methyl 2-[(2S,4S)-4-(2-naphthyloxy)-2-pyrrolidinyl]methoxypyridine-5-carboxylate (107 mg, 80%) as a colorless oil 1H-NMR (CDCl3) δ1.95 (m, 1H), 2.27 (br, 1H), 2.46 (m, 1H), 3.19 (dd, J=12.2, 4.9 Hz, 1H), 3.41 (d, J=12.2 Hz, 1H), 3.65 (m, 1H), 3.89 (s, 3H), 4.58 (m, 2H), 5.00 (br, 1H), 6.77 (d, J=8.8 Hz, 1H), 7.06 (br, 1H), 7.11 (dd, J=8.8, 2.7 Hz, 1H), 7.31-7.45 (m, 2H), 7.69-7.76 (m, 3H), 8.13 (dd, J=8.8, 2.4 Hz, 1H), 8.78 (d, J=2.2 Hz, 1H).

reactant | 5-carboxymethyl-2-[(2S,4S)-1-tert-butoxycarbonyl-4-(2-napthyloxy)-2-pyrrolidinyl]methoxypyridine | 0.36 mmol, 170 mg | C(=O)(O)CC=1C=CC(=NC1)OC[C@H]1N(C[C@H](C1)OC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C | C27H30N2O6
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-[(2S,4S)-4-(2-naphthyloxy)-2-pyrrolidinyl]methoxypyridine-5-carboxylate | 107 mg, 80% | C1=C(C=CC2=CC=CC=C12)O[C@H]1C[C@H](NC1)COC1=NC=C(C=C1)C(=O)OC | C22H22N2O4
